US05665719
Sodium borohydride (1.12 g, 29.6 mmol) was stirred under nitrogen in THF (40 mL) in an ice bath. Acetic acid (3.38 mL, 3.55 g, 59.2 mmol) was added dropwise. The mixture was stirred until hydrogen evolution had ceased, then neat 2-aminoacetophenone (2.0 g, 14.8 mmol) was added dropwise. The mixture was stirred at ambient temperature for 5 days, then treated with water (40 mL) and neutralized with saturated aqueous sodium bicarbonate. The mixture was extracted with ether, and the combined ether layers were dried over sodium sulfate, filtered, and evaporated to dryness in vacuo to give methyl-2-aminophenyl carbinol.

reactant | Sodium borohydride | 29.6 mmol, 1.12 g | [BH4-].[Na+]
reactant | Acetic acid | 59.2 mmol, 3.38 mL, 3.55 g | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
reactant | 2-aminoacetophenone | 14.8 mmol, 2.0 g | NCC(=O)C1=CC=CC=C1 | C8H9NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 40 mL | O | H2O
product | methyl-2-aminophenyl carbinol | CC(O)C1=C(C=CC=C1)N | C8H11NO
